Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Doxycycline / Morphine Sulfate / Phenobarbital
 
Attending: ___
 
Chief Complaint:
Intracerebral Hemorrhage  
 
Major Surgical or Invasive Procedure:
PEG (___)
 
History of Present Illness:
HPI: 
   ___ is a ___ with history of atrial fibrillation
on Pradaxa, hypertension, hyperlipidemia, depression,
___, and trigeminal neuralgia who was transferred from
___ with a left intracerebral hemorrhage.  She was last
seen well at 9:00pm and at 9:03pm was found by his wife sitting
in a chair, hunched forward.   BP on EMS arrival was 134/99.  He
was noted to have R face, arm, leg weakness and inability to
speak.     
  He was brought to the outside ___ where he had an NIHSS of 17
(alert, following commands, though aphasic, with right face, 
arm,
leg weakness).  Head CT was performed showing a large left
frontoparietal lobar hemorrhage with no midline shift or
intraventricular extension.  He was subsequently started on a
Nicardipine gtt, given tranexamic acid and PCC, and transferred
to ___ ___ for further evaluation.   
  Upon arrival to ___, his SBPs were 110s.  Neurosurgery
evaluated the patient and did not recommend acute surgical
intervention.  He was given anti-Pradaxa antibody or Praxbind
(idarucizumab) 1gIV and levetiracetam 1g IV.  

Neurologic review of systems (per wife):  Minor headache for the
past few days.  No vomiting.

Other review of systems:  Chest pain 2 weeks ago, for which seen
at ___, with subsequent follow-up with Cardiology
believed to be musculoskeletal.  Chronic difficulty managing
secretions at night.  No fevers, cough, rhinorrhea, dyspnea,
diarrhea, rash, change in urinary habits.    
 
Past Medical History:
Afib on Pradaxa
HTN
HLD
Depression
___
Trigeminal neuralgia
Possible dementia

 
Social History:
___
Family History:
Brother with depression
Father with ___
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
==============================
PHYSICAL EXAMINATION  
Vitals: T: 98.0 HR: 119 BP: 125/71 RR: 14 SaO2: 98% RA  
General: Mildly ill appearing, in no distress
HEENT: Anicteric, equal and round pupils  
___: Irregularly irregular  
Pulmonary: No retractions or flaring, breath sounds present 
bilaterally  
Abdomen: Soft, nondistended  
Extremities: Warm, no edema  

Neurologic Examination:  
 
- Mental status: Awake, some fixing, intermittent incoherent 
quasi-syllabic utterances when asked questions, unable to answer 
questions, follows one-step motor commands  
- Cranial Nerves: PERRL 4->3. VF intact to blink to threat b/l. 
No horizontal gaze palsy. R nasolabial fold flattening. Tongue 
midline.  
- Motor: Axial and orolabial rigidity. Also rigid in RUE > RLE, 
but fluctuates throughout day. Spontaneously moves left arm and 
leg more than left. No evidence of right arm movement on drift 
testing or with subsequent response to noxious stimuli. No clear 
antigravity movements in left leg during drift testing, but 
trace withdrawal response of toes during response to noxious 
stimuli. No drift in right arm or leg testing.  
- Sensory - Not motor response or grimace to pain in left upper 
or lower extremity, with minor grimace in right arm and leg 
noxious stimuli testing.  
-DTRs: 2+ in biceps, 2+ in triceps and patellae. Majestic 
Babinski on R.  

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
General: Resting in bed in no distress  
HEENT: Anicteric, equal and round pupils  
___: Irregularly irregular  
Pulmonary: No retractions or flaring, breath sounds present 
bilaterally  
Abdomen: Soft, nondistended, PEG site C/D/I 
Extremities: Warm, no edema  

Neurologic Examination:   
- Mental status: Awake, wakefulness varies between drowsy and 
slightly more interactive. Arousable to voice, will track 
examiner on the left, +R hemi-neglect, hypophonic with 
unintelligible speech, does not consistently follow simple or 
complex commands. Earlier in day, when less ___ respond 
to questions with faint monotone vocalizations that are 
unintelligible. Later in day, answers yes/no appropriately to 
questions and sometimes able to give ___ word answers. 
- Cranial Nerves - PERRL 4->3. Decreased blink to threat in the 
right hemifield. Left gaze preference but eyes will briefly 
cross midline to right. R nasolabial fold flattening. Hypomimia. 
Tongue midline. Severe dysarthria due to rigidity. 
- Sensori-Motor - Normal bulk. Decreased spontaneous movements. 
Increased tone with rigidity and cogwheeling in left upper 
extremity (varied based on when examined relative to ___ 
dosing). Increased tone in left lower extremity. Power is intact 
in left upper and lower extremity to gross motor testing. In 
right upper and lower extremity, there is decreased tone. 
Withdraws minimally at ankle to stimulation of right lower 
extremity; no movement to noxious stimulation in the right upper 
extremity; no grimace noted either.   
- DTRs: 2+ in biceps, 2+ in triceps and patellae. Majestic 
Babinski on R. 

 
Pertinent Results:
=============
SELECTED LABS
=============
- CBC
___ 11:00PM BLOOD WBC-9.6 RBC-4.49* Hgb-14.2 Hct-42.2 
MCV-94 MCH-31.6 MCHC-33.6 RDW-12.8 RDWSD-44.0 Plt ___
___ 04:17AM BLOOD WBC-10.5* RBC-4.34* Hgb-13.7 Hct-40.7 
MCV-94 MCH-31.6 MCHC-33.7 RDW-12.6 RDWSD-43.8 Plt ___
___ 02:03AM BLOOD WBC-9.5 RBC-3.88* Hgb-12.3* Hct-36.4* 
MCV-94 MCH-31.7 MCHC-33.8 RDW-13.1 RDWSD-44.8 Plt ___
___ 02:41AM BLOOD WBC-10.5* RBC-4.11* Hgb-13.0* Hct-38.8* 
MCV-94 MCH-31.6 MCHC-33.5 RDW-13.3 RDWSD-46.3 Plt ___
___ 09:15PM BLOOD WBC-13.2* RBC-4.28* Hgb-13.7 Hct-39.9* 
MCV-93 MCH-32.0 MCHC-34.3 RDW-13.3 RDWSD-45.1 Plt ___
___ 06:35AM BLOOD WBC-8.9 RBC-3.87* Hgb-12.4* Hct-37.2* 
MCV-96 MCH-32.0 MCHC-33.3 RDW-13.3 RDWSD-47.5* Plt ___
___ 05:20PM BLOOD WBC-9.3 RBC-3.78* Hgb-11.9* Hct-36.8* 
MCV-97 MCH-31.5 MCHC-32.3 RDW-13.3 RDWSD-47.6* Plt ___
___ 06:10AM BLOOD WBC-9.1 RBC-3.84* Hgb-12.1* Hct-37.3* 
MCV-97 MCH-31.5 MCHC-32.4 RDW-13.0 RDWSD-46.3 Plt ___
___ 06:53AM BLOOD WBC-9.2 RBC-3.72* Hgb-11.8* Hct-35.3* 
MCV-95 MCH-31.7 MCHC-33.4 RDW-12.9 RDWSD-44.5 Plt ___
___ 01:18PM BLOOD WBC-10.1* RBC-3.70* Hgb-12.0* Hct-35.6* 
MCV-96 MCH-32.4* MCHC-33.7 RDW-12.9 RDWSD-45.7 Plt ___
___ 05:50AM BLOOD WBC-11.4* RBC-4.25* Hgb-13.7 Hct-40.7 
MCV-96 MCH-32.2* MCHC-33.7 RDW-13.2 RDWSD-45.9 Plt ___
___ 09:10AM BLOOD WBC-11.2* RBC-4.53* Hgb-14.1 Hct-43.9 
MCV-97 MCH-31.1 MCHC-32.1 RDW-13.2 RDWSD-46.7* Plt ___

- COAG
___ 11:00PM BLOOD ___ PTT-37.0* ___
___ 02:41AM BLOOD ___ PTT-31.6 ___
___ 06:10AM BLOOD ___ PTT-27.2 ___
___ 01:18PM BLOOD ___ PTT-29.0 ___

- CHEM
___ 11:00PM BLOOD Glucose-145* UreaN-17 Creat-0.9 Na-139 
K-4.1 Cl-100 HCO3-24 AnGap-19
___ 04:17AM BLOOD Glucose-163* UreaN-15 Creat-0.9 Na-146* 
K-4.2 Cl-106 HCO3-21* AnGap-23*
___ 09:15PM BLOOD Glucose-129* UreaN-19 Creat-0.8 Na-137 
K-3.8 Cl-101 HCO3-23 AnGap-17
___ 05:20PM BLOOD Glucose-107* UreaN-24* Creat-0.7 Na-139 
K-4.0 Cl-103 HCO3-26 AnGap-14
___ 06:53AM BLOOD Glucose-153* UreaN-25* Creat-0.7 Na-139 
K-3.4 Cl-103 HCO3-25 AnGap-14
___ 05:50AM BLOOD Glucose-149* UreaN-30* Creat-0.7 Na-139 
K-4.0 Cl-98 HCO3-26 AnGap-19
___ 09:10AM BLOOD Glucose-140* UreaN-34* Creat-0.9 Na-144 
K-4.0 Cl-103 HCO3-28 AnGap-17
___ 04:17AM BLOOD ALT-21 AST-21 LD(LDH)-202 CK(CPK)-54 
AlkPhos-81 TotBili-0.6
___ 01:18PM BLOOD ALT-9 AST-58* AlkPhos-80 TotBili-0.5
___ 09:10AM BLOOD ALT-19 AST-52* LD(LDH)-274* CK(CPK)-40* 
AlkPhos-122 TotBili-0.5
___ 11:00PM BLOOD Calcium-9.2 Phos-2.6* Mg-2.1
___ 04:17AM BLOOD TotProt-7.1 Albumin-4.3 Globuln-2.8 
Cholest-140
___ 06:10AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.1
___ 09:10AM BLOOD Albumin-3.3* Calcium-9.3 Phos-3.9 Mg-2.5

- OTHER
___ 04:17AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:17AM BLOOD %HbA1c-5.5 eAG-111
___ 04:17AM BLOOD Triglyc-66 HDL-57 CHOL/HD-2.5 LDLcalc-70
___ 04:17AM BLOOD TSH-1.3
___ 04:17AM BLOOD CRP-2.9
___ 02:03AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-7* 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*

- MICRO
___ 03:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:10PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-NEG
___ 03:10PM URINE RBC-4* WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 03:10PM URINE Mucous-RARE
___ 01:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
URINE CULTURE (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
 
=======================
IMAGING AND DIAGNOSTICS
=======================
NCHCT (___): Similar appearance of the large posterior left 
frontal lobe intraparenchymal hemorrhage, with associated 
vasogenic edema, new intraventricular extension likely 
attributable to redistribution.  No new or enlarging hemorrhage. 


CTA Head and Neck (___):   
1. Unchanged large left frontoparietal intraparenchymal 
hemorrhage with 
intraventricular extension with rim of surrounding vasogenic 
edema.  No 
definite evidence of underlying vascular malformation. 
2. Patent intracranial vasculature without significant 
stenosis,occlusion, or aneurysm. 
3. Patent cervical vascular without significant stenosis, 
occlusion, or 
dissection. 
4. Moderate multilevel cervical spondylosis. 

MRI Brain (___): 
Left parietal intraparenchymal hematoma without associated 
abnormal 
enhancement.  However, follow-up examination should be obtained 
after 
resolution of hematoma to exclude possibility of underlying 
lesion. 

NCHCT (___):
1.  Overall, stable appearance of the known left frontotemporal 
intraparenchymal hematoma with slight interval increase in 
associated 
vasogenic edema since prior exam in ___. 
2.  Previously seen small intraventricular hemorrhages are also 
similar compared to prior exam. 
3.  No evidence of infarction or new hemorrhage.

NCHCT (___):
Unchanged left intraparenchymal hematoma and adjacent edema.  
Interval 
redistribution of the intraventricular hemorrhage.  No evidence 
of new infarct or hemorrhage.  

CXR (___):
Severe left lower lobe atelectasis unchanged.  Small if any left 
pleural 
effusion.  No pneumothorax.  Heart size top-normal. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with ___ disease, 
trigeminal neuralgia, and atrial fibrillation on Pradaxa; who 
was transferred from ___ for a large left temporoparietal 
intraparenchymal hemorrhage without midline shift. At ___ he 
was given tranexamic acid and K-Centra, then Praxbind at ___ 
to reverse his anticoagulation. On exam he had significant 
speech compromise and a dense right neglect and plegia. He was 
admitted to the neuro ICU, then step-down unit for further 
monitoring. A PEG was placed on ___. 

#L IPH with IVH extension: Patient had repeat imaging which 
showed stable bleed. MRI brain did not show evidence of 
microbleeds in other locations. In the ICU, patient was 
hypertensive and needed a  nicardipine drip for blood pressure 
control. His PO medications for HTN and rate control were 
started after an NG tube (and later PEG)was placed. Pradaxa was 
held given his large bleed. Patient was started on SQ heparin 
and aspirin. We discontinued anticoagulation and discussed these 
risks with the family (risk of bleed vs risk of embolism given 
a-fib), and they agreed to discontinue. 
- He should have a follow-up MRI in 6 months for interval 
resolution of blood and to evaluate for an underlying etiology 
for his bleed (vascular malformation, neoplasm, etc). 
- He will follow-up with stroke neurology at ___ with Dr. 
___. 
- Continue aspirin 81mg DAILY. Discontinue other anticoagulation 
indefinitely. 

___ Disease: Patient was started on his home Sinemet 
dose of ___ x 1 tab TID and this was increased to 1.5 tabs 
TID due to significant rigidity. He did not have a noticeable 
response to the increased dose, but we considered that his 
continuous tube feeds (with added protein) may be interfering 
with his absorption of the drug -- which is a known interaction 
-- so we changed his tube feeds to 14 hour overnight cycles. 
- Avoid feeding until 1 hour after Sinemet dose AND do not dose 
Sinemet until 2 hours after feeds have stopped. 
- He will follow-up with his neurologist, Dr. ___.  

#Atrial fibrillation with RVR: In the ICU, he required an 
increase of his home metoprolol dosing due to rapid heart rate. 
He consistently had rates in the 110s-130s, and we further 
uptitrated his metoprolol to 62.5mg Q6H, which improved his 
vitals to BPs 110-149/69-85, and HRs ___ on his final day of 
admission. Due to those HR decreased below 50, we reduced the 
dose to 50mg Q6H prior to discharge. 

#Mild leukocytosis: His WBC fluctuated during this admission, 
ranging from 8.9-13.2. He was not febrile, urine was negative on 
3 occasions, did not have diarrhea, and CXR did not suggest any 
infectious process. This may have been a stress response, 
atelectasis, or an NMS-like syndrome resulting from irregular 
absorption of Sinemet causing a withdrawal-like syndrome. 
- Intermittently monitor CBC. Chest physiotherapy and incentive 
spirometry when able. 

#Left pleural effusion and atelectasis: As part of the 
infectious work-up above, CXR revealed left-sided pleural 
effusion. We considered thoracentesis and consulted pulmonary 
medicine. They performed bedside ultrasound and determined the 
effusion was due to atelectasis. 
- Chest physiotherapy and incentive spirometry as above. 

#Agitation: His hospital course was notable for agitation at 
times and he pulled out IVs. He was given Zyprexa as this was 
his home medication, though it did not help. We discontinued 
Zyprexa due to its exacerbation of ___ and switched to 
Seroquel PRN which has less of an interaction. He has, in 
general, not been agitated save for on ___ occasions earlier in 
the admission. 

#Insomnia: We discontinued his home amitriptyline due to 
significant sedation. 

#Trigeminal Neuralgia: Initially he was in significant pain and 
his Tegretol was resumed. Family described that he becomes 
significantly sedated on Tegretol and was only taking it as 
needed for pain at home, so we made this medication PRN.

========================================  
AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. CarBAMazepine 200 mg PO DAILY:PRN trigeminal neuralgia 
3. Carbidopa-Levodopa (___) 1 TAB PO TID 
4. Dabigatran Etexilate 75 mg PO QHS 
5. Nortriptyline 125 mg PO QHS 
6. OLANZapine 5 mg PO QHS 
7. TraZODone 25 mg PO QHS:PRN insomnia 
8. Metoprolol Tartrate 25 mg PO BID 
9. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE QID  
3.  Heparin 5000 UNIT SC BID  
4.  Insulin SC 
      Sliding Scale, Fingerstick QACHS, Insulin SC Sliding Scale 
using REG Insulin 
5.  QUEtiapine Fumarate 25 mg PO QHS:PRN Agitation  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO TID  
7.  Lisinopril 20 mg PO DAILY  
8.  Metoprolol Tartrate 50 mg PO Q6H  
9.  CarBAMazepine 200 mg PO DAILY:PRN trigeminal neuralgia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left temporoparietal intraparenchymal hemorrhage
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of right-sided face, arm, 
and leg weakness and inability to speak resulting from an ACUTE 
HEMORRHAGIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain breaks and bleeds into the 
brain. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
-Atrial fibrillation
-High blood pressure

We are changing your medications as follows:  
- STOP Pradaxa, amitriptyline, atorvastatin, olanzapine, 
trazodone
- INCREASE lisinopril to 20mg DAILY, Sinemet ___ to 1.5 tabs 
TID, metoprolol to 50mg Q6H (from 25mg BID). 
- START aspirin 81mg DAILY. 
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you.

Sincerely,
___ Neurology
 
Followup Instructions:
___